US08119644B2
Hydrazinecarboxylic acid ethyl ester (4.40 g, 42.2 mmol) and acetic acid 60 um, 1.0 mmol) were added to 20 mL (excess) of methyl isopropyl ketone, and the mixture was stirred at room temperature for 18 hours. Water (40 mL) was added, and the mixture was extracted with methylene chloride. The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure to give 7.25 g of crude N′-[1,2-dimethyl-prop-(Z)-ylidene]-hydrazinecarboxylic acid ethyl ester as an oil, which was used directly in the next step.

reactant | Hydrazinecarboxylic acid ethyl ester | 42.2 mmol, 4.40 g | C(C)OC(=O)NN | C3H8N2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | methyl isopropyl ketone | 20 mL | C(C)(C)C(=O)C | C5H10O
solvent | Water | 40 mL | O | H2O
product | N′-[1,2-dimethyl-prop-(Z)-ylidene]-hydrazinecarboxylic acid ethyl ester | 7.25 g | C(C)OC(=O)N\N=C(/C(C)C)\C | C8H16N2O2
